US08937087B2
To a mixture of tert-butyl [(5-bromo-1H-benzimidazol-2-yl)methyl]methylcarbamate (1.54 g) and DMF (20 mL) were added K2CO3 (1.88 g) and chloromethylmethyl ether (516 μL) under ice-cooling, followed by stirring at room temperature overnight. The reaction mixture was diluted with EtOAc, and washed with water and brine in this order. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=80/20-55/45) to obtain a mixture (1.25 g) of tert-butyl {[5-bromo-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate and tert-butyl {[6-bromo-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate.

reactant | tert-butyl [(5-bromo-1H-benzimidazol-2-yl)methyl]methylcarbamate | 1.54 g | BrC1=CC2=C(NC(=N2)CN(C(OC(C)(C)C)=O)C)C=C1 | C14H18BrN3O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 1.88 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethylmethyl ether | 516 μL | ClCOC | C2H5ClO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl {[5-bromo-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate | 1.25 g | BrC1=CC2=C(N(C(=N2)CN(C(OC(C)(C)C)=O)C)COC)C=C1 | C16H22BrN3O3
